* C:\dev\git\wind-turbine\small_wind_turbine\LTspice\bootstrap_demo.asc
D1 N001 N002 D
C1 N002 N003 1µ
V1 N001 P001 12
XU2 P001 gnd
V2 N003 N004 PULSE(0 50 0 1u 1u 10u 20u 1000)
XU1 N004 gnd
I1 N002 N003 0.1
.model D D
.lib C:\Users\ieykamp\OneDrive - Olin College of Engineering\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 500u 0
.include engr2420.sub
.backanno
.end
